US04404301
Preparation of bis(1,2,2,6,6-pentamethyl-4-piperidyl)itaconate/decene-1 copolymer
Bis(1,2,2,6,6-pentamethyl-4-piperidyl)itaconate 2.6 g (6 mmole), decene-1 0.6 g (4.3 mmole) and dicumyl peroxide 0.05 g were dissolved in 14 ml of toluene and heated and stirred at 150° C. for seven hours. The solvent was distilled off, and a pale yellow solid was obtained.

reactant | Bis(1,2,2,6,6-pentamethyl-4-piperidyl)itaconate | 6 mmole, 2.6 g | CN1C(CC(CC1(C)C)OC(C(=C)CC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)=O)(C)C | C25H44N2O4
reactant | decene-1 | 4.3 mmole, 0.6 g | CCCCCCCCC=C | C10H20
reactant | dicumyl peroxide | 0.05 g | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
solvent | toluene | 14 ml | C1(=CC=CC=C1)C | C7H8
product | bis(1,2,2,6,6-pentamethyl-4-piperidyl)itaconate decene-1 | CN1C(CC(CC1(C)C)OC(C(=C)CC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)=O)(C)C.CCCCCCCCC=C | InChI=1S/C25H44N2O4.C10H20/c1-17(21(29)31-19-15-24(6,7)27(11)25(8,9)16-19)12-20(28)30-18-13-22(2,3)26(10)23(4,5)14-18;1-3-5-7-9-10-8-6-4-2/h18-19H,1,12-16H2,2-11H3;3H,1,4-10H2,2H3
